US06677340B2
Step 6B {2-[3-(2-Fluoro-3-methoxy-phenyl)-ureido]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester
1-(2-Amino-2-methyl-propyl)-3-(2-fluoro-3-methoxy-phenyl)-urea (1.8 g) was dissolved in 50 mL of CH2Cl2 in a 100 mL round bottomed flask. Di-tert-butyl dicarbonate (1.3 eq, 2.0 g) was added and the reaction was complete after two hours by thin layer chromatography. The reaction was diluted with 50 mL of H2O and the organic layer was collected. The aqueous layer was extracted with CH2Cl2 (2×50 mL). The combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified via flash column chromatography and eluted with 30% EtOAc/hexanes to yield 1.4 g (56%). 1H NMR (CDCl3) δ:7.64 (dt,1H), 6.98 (dt,1H), 6.91 (bs,1H), 6.63 (dt,1H), 6.05 (bs,1H), 3.86 (s,3H), 3.42 (d, 2H), 1.42 (s,9H), 1.24 (s,6H).

reactant | 1-(2-Amino-2-methyl-propyl)-3-(2-fluoro-3-methoxy-phenyl)-urea | 1.8 g | NC(CNC(=O)NC1=C(C(=CC=C1)OC)F)(C)C | C12H18FN3O2
reactant | Di-tert-butyl dicarbonate | 2.0 g, 1.3 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
product | {2-[3-(2-Fluoro-3-methoxy-phenyl)-ureido]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CNC(=O)NC1=C(C(=CC=C1)OC)F)(C)C)=O | C17H26FN3O4
